US08669367B2
To 100 mg (0.311 mmol) of N-(2-nitrophenylsulfonyl)-2-azaadamantane, 51.6 mg (0.373 mmol) of potassium carbonate and 0.54 g of toluene were added, and after adjusting the temperature to 50° C., 0.039 mL (0.380 mmol) of thiophenol was added. After stirring for 5 hours, acetonitrile, methanol and water were added to obtain a uniform solution of 2-azaadamantane.

reactant | N-(2-nitrophenylsulfonyl)-2-azaadamantane | 0.311 mmol, 100 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N1C2CC3CC(CC1C3)C2 | C15H18N2O4S
reactant | potassium carbonate | 0.373 mmol, 51.6 mg | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 0.54 g | C1(=CC=CC=C1)C | C7H8
reactant | thiophenol | 0.380 mmol, 0.039 mL | C1(=CC=CC=C1)S | C6H6S
solvent | water | O | H2O
solvent | methanol | CO | CH4O
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-azaadamantane | Yield: 88% | C12NC3CC(CC(C1)C3)C2 | C9H15N
